Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1](=[C:2](\[C:7]([N+:4]#[N:3])=[C:6]([O-:5])[H:9])[H:10])\[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],37.7189252184408
[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]1[C:4]([H:13])=[C:5]1[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[C:7][H:15],111.755847178229
[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8]>>[H:8][H:9].[N:1](=[C:2]1/[C-:3]([N+:4]#[N:5])[O:6]1)\[H:7],106.162159960052
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:6]([O+:5]=[C-:4][H:14])=[N:7]/[H:16])[H:15])([H:8])([H:9])[H:10],73.2075329750307
[O:1]([C:2]([C:3]([O:6][C:5]([C:4][H:11])([H:13])[H:14])([H:10])[H:12])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7],9.358923048057207
[C:1]([C@@:2]1([H:11])[O:3][C@:4]1([O:5][H:12])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],53.8008047319247
[C-:1]([C:2](/[C:3](=[N+:5](/[C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])[H:10].[C:4]([H:9])([H:14])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],12.12879872831138
[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C@@:5]1([H:14])[C:4]([H:12])([H:13])[O:6]1)([H:7])([H:8])[H:9],85.02420742790551
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:5]([C:6](=[O:7])[H:18])[H:17])([H:8])([H:9])[H:10].[C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12],106.719954228302
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12]>>[O:1]=[C:2]([N:3]([C:4]([C@@:5]1([H:11])[O+:6]=[C-:7]1)([H:9])[H:10])[H:8])[H:12],66.9091674716389
[C:1]([O:2][C:4]([O:5][H:13])([H:11])[H:12])([H:6])([H:7])[H:8].[C:3]([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],5.528097200113791
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[C:6]#[N:7])[C:4]#[C:5][H:10],73.70382479421109
[C-:2]#[O+:3].[C:4](=[O:5])([H:8])[H:9].[N:1]([H:6])([H:7])[H:10]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],18.245884265055697
[C:1](/[N:2]=[C:3](/[O:4][H:11])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],22.556025875908897
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5]1=[C:6]([H:8])[H:12],79.2080271379196
[O:1]([C:2]([C@@:3]([C:4](=[O:7])[H:12])([C:6](=[C:5]([H:13])[H:14])[H:15])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],81.33729955536272
[C:1]1([H:7])([H:8])[C-:2]([H:9])[C:3]([H:10])([H:11])[C+:4]2[N:5]([H:12])[C@@:6]12[H:13]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],30.993052279592796
[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[C:5]([N:4]([N:6]([H:13])[H:14])[H:12])=[C:7]1[H:15])([H:8])([H:9])[H:10],154.4038572596
[C:1]([O:2][C:3]([C@@:4]([O:5][H:14])([C:6]([O:7][H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:14])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([O:5][H:17])([H:13])[C:6]([H:15])([H:16])[O:7]1,74.9327014719567
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@@:4]1([H:10])[N:5]([H:11])[C@@:6]21[H:12]>>[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]1([H:9])[C@:6]2(/[C:4](=[N:5]/[H:11])[H:10])[H:12],42.9233487430281
[C:1]([C:2]1=[C:7]=[C:6]([H:16])[C@:4]([C:5]([H:14])([H:15])[H:17])([H:13])[C:3]1([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10],75.85415043378961
[O:1]=[C:2]([N:3]=[N+:4]=[N-:5])[H:6]>>[N-:3]=[N+:4]=[N:5].[O:1]=[C:2][H:6],73.9883878420279
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[C:5]=[N:6][H:8].[O:1]([C-:2]=[C:3]=[C+:4][H:9])[H:7],63.8096259467985
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]1([H:8])[C@@:2]2([C:6]#[N:7])[O:3][C@@:4]2([H:9])[O:5]1,102.938900515897
[C:1]([C:2]([C:3]([O:4][H:13])([C:5]([C:6]([H:16])([H:17])[H:18])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:5]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:4]([C:6]([H:16])([H:17])[H:18])[H:13],96.7704577853989
